### PR TITLE
feat: characterize TVS asymptotics in terms of seminorms

### PR DESCRIPTION
**Pull request by ADedecker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Seminorm.lean [hunk 1]
```diff
@@ -1047,6 +1048,17 @@ section Continuity
 variable [NontriviallyNormedField 𝕜] [SeminormedRing 𝕝] [AddCommGroup E] [Module 𝕜 E]
 variable [Module 𝕝 E]
 
+theorem continuous_finset_sup [TopologicalSpace E]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Seminorm.lean:1066]:
```suggestion
theorem continuous_finsetSup [TopologicalSpace E]
```

**Comment by ADedecker** [comment]
@mcdoll It sounded like you were interested in this PR. If you want to adopt it, feel free to do so; if not I'll revive it at some point, but in any case I wanted to ping you in case you were looking for it.

**Comment by mcdoll** [comment]
Currently travelling, but I am very much interested in adopting this

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 2]
```diff
@@ -422,6 +422,59 @@ lemma _root_.ContinuousLinearMap.isThetaTVS_comp (g : E →L[𝕜] F) (hg : Topo
...
+  let Φ : E →L[𝕜] G := ⟨φ, hφ.continuous⟩
+  have hφ' : comap φ (𝓝 0) ≤ 𝓝 0 := by rw [hφ.nhds_eq_comap, map_zero]
+  exact ⟨(φ.isBigOTVS_rev_comp hφ').trans_isLittleOTVS, Φ.isBigOTVS_comp.trans_isLittleOTVS⟩
+
+lemma _root_.Topology.IsInducing.isLittleOTVS_iff_right (φ : F →ₗ[𝕜] G) (hφ : IsInducing φ) :
+    (f =o[𝕜; l] (φ ∘ g)) ↔ (f =o[𝕜; l] g) := by
+  let Φ : F →L[𝕜] G := ⟨φ, hφ.continuous⟩
+  have hφ' : comap φ (𝓝 0) ≤ 𝓝 0 := by rw [hφ.nhds_eq_comap, map_zero]
+  exact ⟨fun H ↦ H.trans_isBigOTVS Φ.isBigOTVS_comp,
+    fun H ↦ H.trans_isBigOTVS (φ.isBigOTVS_rev_comp hφ')⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/TVS.lean:448]: One thing I thought about later but didn't take the time to implement: these all follow from [ContinuousLinearMap.isThetaTVS_comp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Asymptotics/TVS.html#ContinuousLinearMap.isThetaTVS_comp) + transitivity lemmas such as [Asymptotics.IsThetaTVS.trans_isLittleOTVS](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Asymptotics/TVS.html#Asymptotics.IsThetaTVS.trans_isLittleOTVS). 
I think what we should have is a `@[gcongr]` lemma which would allow you to replace each side of a `f =O[𝕜; l] g` or `f =o[𝕜; l] g` by a theta-equivalent function, and then these lemmas are just a single `grw` (so maybe they are not needed anymore? I don't know about this part).

File: Mathlib/Analysis/Seminorm.lean [hunk 3]
```diff
@@ -1047,6 +1055,25 @@ section Continuity
...
+    {p : ι → Seminorm 𝕝 E} {s : Finset ι} (hcont : ∀ i ∈ s, Continuous (p i)) :
+    Continuous (s.sup p : Seminorm 𝕝 E) := by
+  classical
+  induction s using Finset.induction with
+  | empty => rw [Finset.sup_empty, coe_bot]; fun_prop
+  | insert j t _ H =>
+    rw [Finset.sup_insert, coe_sup]
+    exact (hcont _ <| Finset.mem_insert_self j _).sup
+      (H fun i hi ↦ hcont i (Finset.mem_insert_of_mem hi))
```
Comment (ADedecker) [inline Mathlib/Analysis/Seminorm.lean:1075]: For some reason I thought I had seen these PRed already, but I can't find them anymore.

Comment (ADedecker) [reply Mathlib/Analysis/Seminorm.lean:1075]: Ah right, they are in #38739

**Comment by ADedecker** [comment]
> Currently travelling, but I am very much interested in adopting this

Great :tada: I've added some comments with thoughts I had at some point but didn't implement.
